Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin / Zosyn
 
Attending: ___.
 
Chief Complaint:
fevers, lethargy
 
Reason for MICU transfer:  concern for septic shock

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with recent diagnosis of Graves' disease and longtime 
diagnosis of Kawasaki's disease on warfarin, presenting to ED 
with intermittent fevers and lethargy x 1 week and RLQ abdominal 
pain x ___ days.  Initially developed fever up to 102 and mild 
sore throat 1 week ago, was found to have normal WBC with left 
shift and mildly elevated TSH at ___, and was discharged 
home with presumptive diagnosis of viral infection.  However, 
his fevers persisted as high as 102 with night sweats and 
headaches, and was told by his endocrinologist Dr. ___ to 
discontinue his methimazole (MMI). He then developed RLQ pain 
and right groin pain especially on ambulation, and was sent to 
ED following appointment with Dr. ___.

In the ED, his initial vitals were 98.3 77 58/34 18 98%.  He was 
given 4L fluids.  Bedside ultrasound showed no free fluid or 
tamponade with normal IVC and mildly diminished cardiac 
contractility.  Labs notable for WBC 12.8 with left shift, UA 
with 93 WBC, CXR showed no pneumonia, two CT A/P were performed 
that showed no appendicitis or bowel wall thickening but did 
show right retroperitoneal stranding.  Surgery was consulted and 
recommended admission to medicine.  Endocrinology was consulted 
for concern of thyrotoxicosis or adrenal insufficiency, and 
recommended discontinuation of steroids but further thyroid 
studies.  He had a R IJ placed, was started on levophed, 
vanc/zosyn, and hydrocortisone.

In the MICU, his initial vitals were 101.4 117 108/70 35 93% 2L. 
 He reported feeling more energy.

 
Past Medical History:
- ___' disease based on clinical presentation (duration of
symptoms, mild orbitopathy, lid lag, non tender mildly enlarged
thyroid gland). No RAIU. No TSI or TBII testing. Had elevated 
TPO
ab 266 (reference range ___
- Kawasaki disease s/p MI (suggestive though not completely 
diagnosed on cardiac cath in ___ now on coumadin
- asthma
- hyperlipidemia
- gout

 
Social History:
___
Family History:
His father died at age ___ with asbestosis.  His mother is ___ and
is in assisted living.  He has two brothers and a sister who are
healthy.  His son age ___ was diagnosed as hypothyroid and his
daughter, age ___, is healthy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  101.4 117 108/70 35 93% 2L
General: Alert, oriented, mild blanching erythema throughout 
chest/trunk/extremities, no acute distress  
HEENT: dry MM, OC/OP clear
Neck: supple, no LAD, no JVP 
CV: Tachycardic, regular rhythm, normal S1/S2, no m/r/g
Lungs: Tachypneic, clear to auscultation bilaterally, no w/r/r
Abdomen: soft, non-tender, mildly distended, hypoactive bowel 
sounds, no organomegaly, no rebound or guarding  
GU: foley in place
Ext: Warm, well perfused, 2+ pulses, no c/c/e  
Neuro: CN II-XII intact, ___ strength upper/lower extremities 
 
DISCHARGE PHYSICAL EXAM:
AVSS
Lungs clear with very scant coarse sounds at right base
Very Mild RLQ tenderness

 
Pertinent Results:
ADMISSION LABS:
___ 09:37AM BLOOD WBC-12.8*# RBC-3.78* Hgb-10.2*# 
Hct-32.5*# MCV-86 MCH-26.9*# MCHC-31.4 RDW-16.4* Plt ___
___ 09:37AM BLOOD Neuts-91* Bands-3 Lymphs-2* Monos-3 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 09:37AM BLOOD ___ PTT-35.4 ___
___ 09:37AM BLOOD Glucose-105* UreaN-23* Creat-1.9*# Na-133 
K-5.0 Cl-99 HCO3-22 AnGap-17
___ 09:37AM BLOOD ALT-19 AST-20 AlkPhos-101 TotBili-0.8
___ 09:37AM BLOOD Albumin-3.4* Calcium-8.8 Phos-2.1* Mg-2.2
___ 02:42PM BLOOD T4-5.9 T3-84 calcTBG-0.75* TUptake-1.33* 
T4Index-7.8
___ 09:37AM BLOOD TSH-0.71
___ 09:37AM BLOOD Cortsol-51.8*
___ 09:53AM BLOOD Lactate-2.0
___ 03:19AM BLOOD Lactate-1.3
___ 02:34PM BLOOD O2 Sat-62
___ 03:19AM BLOOD O2 Sat-87

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-5.7 RBC-3.37* Hgb-9.0* Hct-28.6* 
MCV-85 MCH-26.8* MCHC-31.6 RDW-17.6* Plt ___
___ 07:10AM BLOOD ___
___ 07:10AM BLOOD Glucose-84 UreaN-17 Creat-0.7 Na-141 
K-3.9 Cl-105 HCO3-30 AnGap-10
___ 08:20AM BLOOD Calcium-8.3* Phos-2.6* Mg-2.5

___ ___ M  ___  ___BD & PELVIS W/O CONTRAST Study Date of 
___ 4:12 ___ 
 
  
___   ___ 4:___BD & PELVIS W/O CONTRAST; -77 BY DIFFERENT PHYSICIAN   ___ 
# ___   
Reason: Eval retroperitoneal process as seen on previous CT 
scan. PO 
 

 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with fevers and RLQ tenderness  
REASON FOR THIS EXAMINATION: 
   Eval retroperitoneal process as seen on previous CT scan. PO 
contrast already  
   given 
CONTRAINDICATIONS FOR IV CONTRAST: 
    

 
 
Wet Read: ___ ___ 7:03 ___ 
  
1. Minimal asymmetric right perinephric stranding. Please 
correlate with 
urinalysis.  
  
2. Normal appendix.  
  
3. Unchanged nonspecific right retroperitoneal stranding 
extending along the 
right iliac vessels.  
  
4. 5 mm left lower lobe pulmonary nodule should be followed in 
___ months if 
the patient is at high risk for lung malignancy.  
  

 
Final Report 
HISTORY:  ___ male with fevers and right lower quadrant 
tenderness.   
  
COMPARISON:  Same day CT of in ___.   
  
TECHNIQUE:  MDCT images were obtained from the lung bases to the 
pubic 
symphysis after administration of oral contrast.  IV contrast 
was not 
administered.  This examination was repeated since a CT 
performed at 12:00 in 
order to better visualize the appendix.  Axial images were 
interpreted in 
conjunction with coronal and sagittal reformats.   
  
FINDINGS: 
  
Coronary artery calcifications are similar to prior.  Bibasilar 
atelectasis is 
unchanged.  5 mm left lower lobe nodule should be followed as 
previously 
recommended.  No pleural or pericardial effusion.   
  
ABDOMEN:   
  
Evaluation of the intra-abdominal organs is limited by lack of 
IV contrast 
administration.  The unenhanced appearance of the liver, 
gallbladder, intra 
and extrahepatic bile ducts, pancreas, spleen, and adrenal 
glands is normal.  
There is minimal asymmetric right perinephric stranding and 
thickening of 
Gerota's fascia.  The ureters have a normal course and caliber. 
No calculi are 
seen within the kidneys or ureters, and no hydronephrosis is 
present. 
  
The stomach is normal.  The small and large bowel have a normal 
course and 
calibur.  The appendix is not dilated and the base of the 
appendix contains 
oral contrast, though the remainder of the appendix does not 
fill with oral 
contrast. No stranding is noted about the appendiceal tip. 
  
Right retroperitoneal stranding extending from the right lateral 
conal fascia 
along the right iliac vessels is unchanged and nonspecific. No 
focal fluid 
collection is present.  No retroperitoneal or mesenteric 
lymphadenopathy.  The 
unenhanced appearance of the portal and intra-abdominal systemic 
vasculature 
is unremarkable.  No abdominal wall hernia, pneumoperitoneum, or 
free 
intraperitoneal fluid. 
  
PELVIS:  The bladder contains a Foley catheter.  The terminal 
ureters are 
normal.  The prostate gland is unremarkable.  No pelvic 
side-wall or inguinal 
lymphadenopathy. No free pelvic fluid or inguinal hernia. 
  
OSSEOUS STRUCTURES:  No focal lytic or sclerotic lesion 
concerning for 
malignancy.  Retrolisthesis of L5 on S1.  Mild multilevel 
thoracolumbar spine 
degenerative changes.   
  
CT Abd and Pelvis
IMPRESSION: 
  
1.  Minimal asymmetric right perinephric stranding and 
thickening of Gerota's 
fascia, which can be seen with pyelonephritis. Clinical 
correlation with 
urinalysis recommended. 
  
2.  Unchanged right retroperitoneal stranding extending along 
the right iliac 
vessels, non-specific. Findings could relate to urinary tract 
infection.   
  
3.  Normal appendix.   
   
4.  5 mm left lower lobe pulmonary nodule should be re-assessed 
in 12 months 
if there is low risk of lung malignancy or in ___ months there 
is high risk. 
 

 
Brief Hospital Course:
___ with hyperthyroidism on methimazole, Kawasaki's on warfarin, 
presenting with one week of intermittent fevers, lethargy, and 
RLQ pain, found to be in septic shock of unclear etiology:

# Septic shock ___ pyelonephritis: The patient meet SIRS 
criteria with fever, leukocytosis, tachycardia, tachypnea, also 
hypotensive with likely source urinary given concerning UA 
(RBC-4, WBC-93, no epi's) and perinephric/retroperitoneal 
stranding on CT.  The patient was bolus 6L of NS and started a 
levophed gtt in the ED.  A central line was placed in the ED.  
The CVP was resusitated to >12, and MAP remained >65 on 
levophed.  His BP quickly improved and he was weaned from the 
levophed gtt.  He was initially given vancomycin and zosyn in 
the ED, which was narrowed to cefepime on arrival to the FICU.  
He developed a morbilliform rash after recieving vancomycin and 
zosyn in the ED.  He remained off pressors for over 48 hour and 
was admitted to a medical floor bed.  After 3 days, his 
antibiotics were narrowed to levofloxacin.  Blood and Urine 
cultures had no growth to date at that time. The patient was 
discharged on 7 day additional days of Levofloxacin for a full 
14d treatment for pylenonephritis due to septic shock.

# ___: Cr 1.9 in ED secondary to shock, which resolved to 
baseline after fluid resusitation.

# Hyperthyroidism: The patient was followed by endocrinology 
will inpatient after a recent diagnosis of Grave's Disease.  He 
was continued on his home propranolol, but the home dose of 
methimazole was held.  The patient will need to follow up with 
endocrinology with 1 week of discharge.

# Kawasaki's disease: He was continued on his home coumadin and 
quinapril.  An Echo was obtained that revealed a normal EF with 
mild aortic valve stenosis. The patients INR on d/c was 3.7 
given interaction with Coumadin. The patient will hold his 
Coumadin for 2 nights and have his INR checked on ___ at 
the ___. 

# Alcohol use: He denies a history of withdrawal, DTs, or 
seizures in previous hospitalizations.  e was initially started  
on a CIWA, but was discontinued after not scoring for the 
duration of his hospitalization.

# HLD: continued ezetimibe, held lipitor per endocrinology.

# Gout: well controlled, continued home allopurinol

# Pulmonary Nodule: Please see above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ezetimibe 10 mg PO DAILY 
2. Propranolol 10 mg PO BID 
3. Quinapril 10 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Warfarin 2.5 mg PO 4X/WEEK (___) 
6. Warfarin 2 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1. Ezetimibe 10 mg PO DAILY 
2. Propranolol 10 mg PO BID 
3. Quinapril 10 mg PO DAILY 
4. Warfarin 2.5 mg PO 4X/WEEK (___) 
Do not take until instructed

5. Warfarin 2 mg PO 3X/WEEK (___) 
6. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth Daily 
Disp #*7 Tablet Refills:*0
7. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0
8. Pulmicort Flexhaler *NF* (budesonide) 90 mcg/actuation 
Inhalation BID 
9. Allopurinol ___ mg PO DAILY 
10. Methimazole 10 mg PO TID 
Do not take this medication until instructed to do so by Dr. 
___
 
11. Simvastatin 40 mg PO DAILY 
Please do not take this medication until instructed to do so by 
your PCP. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Septic Shock secondary to pyelnonephritis
- Graves Disease
- Kawasaki Disease
- Gerd
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to ___ with low blood pressure and were 
found to have sepsis. While the source of the infection is not 
entirely clear, this was most likely due to a kidney infection. 
You were also treated for an asthma exacerbation. Please note 
the changes to your medications below.
 
Followup Instructions:
___